US06906072B1
Reference Example 8 1-benzyl-3-[N-(2-cyanoethyl)amino]pyrrolidine
4.00 g (22.7 mmol) of 1-benzyl-3-aminopyrrolidine was dissolved in 70 ml of methanol, 1.49 ml (22.7 mmol) of acrylonitrile was added thereto, and the mixture was heated to 70° C. After completion of the reaction, the reaction solution was evaporated, and the resulting crude product was subjected to 100 g of Cromatorex NH silica gel (ethyl acetate 100%), to give 4.60 g (20.1 mmol, 88.4%) of the title compound as a yellow oil.

reactant | 1-benzyl-3-aminopyrrolidine | 22.7 mmol, 4.00 g | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
reactant | acrylonitrile | 22.7 mmol, 1.49 ml | C(C=C)#N | C3H3N
solvent | methanol | 70 ml | CO | CH4O
product | 1-benzyl-3-[N-(2-cyanoethyl)amino]pyrrolidine | 20.1 mmol, 4.60 g, 88.4% | C(C1=CC=CC=C1)N1CC(CC1)NCCC#N | C14H19N3
